US07456289B2
A mixture of 6-methoxy-3-methylbenzo[b]thiophene (2.753 g, 15.5 mmol) and SeO2 (2.06 g, 18.55 mmol) in 1,4-dioxane (30 mL) was refluxed for 2 days and then filtered. The filtrate was concentrated in vacuo, and the residue was purified on a silica gel column eluting with EtOAc/hexane (1:10) to give 6-methoxybenzo[b]thiophene-3-carbaldehyde (2.3 g, 80%).

reactant | 6-methoxy-3-methylbenzo[b]thiophene | 15.5 mmol, 2.753 g | COC=1C=CC2=C(SC=C2C)C1 | C10H10OS
reactant | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 6-methoxybenzo[b]thiophene-3-carbaldehyde | 2.3 g, 80% | COC=1C=CC2=C(SC=C2C=O)C1 | C10H8O2S
